US07786044B2
13. Preparation of 6-Amino-2-chloro-5-vinylpyrimidine-4-carboxylic acid methyl ester
6-Amino-2-chloro-5-iodopyrimidine-4-carboxylic acid methyl ester (10 g, 32 mmol) was dissolved in 1,2-dichloroethane (100 mL), treated with vinyltributylstannane (11.6 mL, 12.6 g, 40 mmol) and sparged with a nitrogen stream for 10 min. Bis(triphenylphosphine)palladium(II) dichloride (1.1 g, 1.6 mmol, 5 mole %) was added and the mixture was heated at reflux under a nitrogen atmosphere for 3 h. The mixture was cooled, stirred with 10% aqueous KHF2 for 30 min, and filtered through diatomaceous earth to remove solids. The filter cake was washed with more 1,2-dichloroethane and ethyl acetate. The combined filtrates were washed with water, washed with saturated NaHCO3, washed with brine, dried, and evaporated. The crude material was chromatographed on silica (5-20% ethyl acetate/dichloromethane containing 2% acetic acid) to give the title compound (4.5 g, 70% yield). This material contained approximately 5% PPh3, but was used without further purification. MS: m/z=213. 1H NMR (CDCl3) δ 6.77 (dd, 1H), 6.4 (br, 2H), 5.70 (d, 1H), 5.61 (d, 1H).

reactant | 6-Amino-2-chloro-5-iodopyrimidine-4-carboxylic acid methyl ester | 32 mmol, 10 g | COC(=O)C1=NC(=NC(=C1I)N)Cl | C6H5ClIN3O2
reactant | vinyltributylstannane | 40 mmol, 11.6 mL, 12.6 g | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
catalyst | Bis(triphenylphosphine)palladium(II) dichloride | 1.6 mmol, 1.1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-Amino-2-chloro-5-vinylpyrimidine-4-carboxylic acid methyl ester | 4.5 g, 70% yield | COC(=O)C1=NC(=NC(=C1C=C)N)Cl | C8H8ClN3O2
